US04268509
Preparation of Methyl 5-formamido-1,2,4-thiadiazole-3-carboxylate
To a mixture of formic acid (33 g) and acetic anhydride (22 g) was added methyl 5-amino-1,2,4-thiadiazole-3-carboxylate (6.2 g), and then the mixture was stirred for 2 days at ambient temperature. The reaction mixture was concentrated under reduced pressure and the residue was triturated with a mixture of diethyl ether and n-hexane to give the title compound (7.2 g), mp. 210° to 215° C.

reactant | acetic anhydride | 22 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 5-amino-1,2,4-thiadiazole-3-carboxylate | 6.2 g | NC1=NC(=NS1)C(=O)OC | C4H5N3O2S
solvent | formic acid | 33 g | C(=O)O | CH2O2
product | Methyl 5-formamido-1,2,4-thiadiazole-3-carboxylate | 7.2 g | C(=O)NC1=NC(=NS1)C(=O)OC | C5H5N3O3S
